US04716238
Preparation of 7-n-propoxy-8-methoxy-2,2-dimethyl-2H-chromene
A suspension of 5.5 g (30 millimoles) of 2-methoxy-3-n-propoxy-phenol, 6.5 g (60 millimoles) of 3-chloro-3-methyl-but-1-ine, 5 g of potassium carbonate, 8 g of potassium iodide and 50 ml of anhydrous acetone is heated to boiling under stirring for 20 hours. The inorganic salt is filtered off, the filtrate evaporated and the residue heated to boiling in 100 ml of N,N-dimethyl aniline for 8 hours. The reaction mixture is worked up in the usual manner and the product is purified as described in Example 3. Thus 5.9 g of the title compound are obtained in the form of a colorless oil, yield 80%.

reactant | 2-methoxy-3-n-propoxy-phenol | 30 millimoles, 5.5 g | COC1=C(C=CC=C1OCCC)O | C10H14O3
reactant | 3-chloro-3-methyl-but-1-ine | 60 millimoles, 6.5 g | ClC(C#C)(C)C | C5H7Cl
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 8 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 7-n-propoxy-8-methoxy-2,2-dimethyl-2H-chromene | 5.9 g, yield 80% | C(CC)OC1=CC=C2C=CC(OC2=C1OC)(C)C | C15H20O3
